US04481142
9-Chloro-7-(2-fluorophenyl)-5H-pyrimido[5,4-d][2]benzazepine-2-acetic acid
A solution of 4.0 g (9.76 mmol) of 9-chloro-7-(2-fluorophenyl)-5H-pyrimido[5,4-d][2]benzazepine-2-acetic acid ethyl ester in 30 ml of ethanol and 25 ml of 1N sodium hydroxide was heated on the steam bath for 3 hr. The mixture was partitioned between 75 ml of water and 75 ml of ether. The basic layer was acidified with acetic acid and extracted with dichloromethane (2×100 ml), which was dried and evaporated. The resulting oil was crystallized from methanol and recrystallized from dichloromethane/ether/petroleum ether to give off-white prisms, mp 138°-140° C.

reactant | 9-chloro-7-(2-fluorophenyl)-5H-pyrimido[5,4-d][2]benzazepine-2-acetic acid ethyl ester | 9.76 mmol, 4.0 g | C(C)OC(CC=1N=CC=2CN=C(C3=C(C2N1)C=CC(=C3)Cl)C3=C(C=CC=C3)F)=O | C22H17ClFN3O2
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 1N, 25 ml | [OH-].[Na+]
product | 9-Chloro-7-(2-fluorophenyl)-5H-pyrimido[5,4-d][2]benzazepine-2-acetic acid | ClC1=CC2=C(C3=C(CN=C2C2=C(C=CC=C2)F)C=NC(=N3)CC(=O)O)C=C1 | C20H13ClFN3O2
